US05552420
A mixture of ethyl β-(1-methyl-2-ethyl-imidazol-5-yl)acrylate (2.1 g, 10.1 mmol) and 1.1 g of 10% Pd/C in ethyl acetate/ethanol/HCl (1M in ethyl acetate; 50 ml/8 ml/8 ml) was hydrogenated under hydrogen (50 psi) for 2 h. The mixture was filtered through celite, the residue was washed with ethylene chloride/methanol (5:1, 2×), and the combined organic layer was concentrated in vacuo. The residue was basified with aqueous sodium bicarbonate solution, extracted with methylene chloride (4×), and the combined organic layer was dried over sodium sulfate and concentrated in vacuo. Upon chromatographic purification of the residue on 20 cm silica column (methylene chloride/methanol 50/1-15/1), 1.9 g (90%) of ethyl 3-(1-methyl-2-ethyl-imidazol-5-yl)propionate was isolated as a yellow oil.

reactant | ethyl β-(1-methyl-2-ethyl-imidazol-5-yl)acrylate | 10.1 mmol, 2.1 g | CN1C(=NC=C1C=CC(=O)OCC)CC | C11H16N2O2
solvent | ethyl acetate ethanol HCl | 1M, 50 ml | C(C)(=O)OCC.C(C)O.Cl
catalyst | Pd/C | 1.1 g | [Pd] | Pd
product | ethyl 3-(1-methyl-2-ethyl-imidazol-5-yl)propionate | 1.9 g, 90% | CN1C(=NC=C1CCC(=O)OCC)CC | C11H18N2O2
